US08604019B2
N-[6-Methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 3 by using 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one and 1,3-propandiamine. MS obsd. (ESI+) [(M+H)+] 402, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.78 (d, J=6.6 Hz, 1H), 7.63 (d, J=7.6 Hz, 1H), 7.34-7.44 (m, 2H), 6.80 (s, 1H), 5.29 (m, 2H), 3.69-3.83 (m, 2H), 3.27-3.42 (m, 2H), 2.97 (t, J=6.3 Hz, 2H), 2.49-2.58 (m, 5H), 1.87 (m, 2H).

reactant | 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one | O=S1CCN(CC2=C1C=CC=C2)C=2NC(C1=C(N2)C=C(S1)C)=O | C16H15N3O2S2
reactant | 1,3-propandiamine | C(CCN)N | C3H10N2
product | N-[6-Methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | CC1=CC=2N=C(N=C(C2S1)NCCCN)N1CCS(C2=C(C1)C=CC=C2)=O | C19H23N5OS2
